US06093732
N-(4-Chlorobenzyl)-4-hydroxy-6-[(2-hydroxyethoxy)methyl]-3-quinolinecarboxamide
To a suspension of Ag2O (4.50 g) in 37 mL distilled CH2Cl2 is added 2-benzyloxyethanol (2.62 mL). The mixture is stirred at room temperature for 15-30 min. 4-Nitrobenzyl bromide (3.98 g) is added and the reaction is stirred at room temperature for 3 days. The reaction mixture is filtered over celite to remove the Ag2O. The filtrate is condensed to obtain a yellow residue. The residue is chromatographed eluting with 7% EtOAc in hexanes. TLC plates are stained in polymolybdic acid to visualize the product. Fractions homogenous by TLC are combined and condensed to afford 4.46g (84%) of 1-{[2-(benzyloxy)ethoxy]methyl}-4-nitrobenzene as a yellow residue. To a suspension of 1-{[2-(benzyloxy)ethoxy]-methyl}-4-nitrobenzene (~240 mg) in 11 mL EtOAc is added PtO2 (48 mg). The reaction mixture is placed under the Parr hydrogenator at 21 psi H2 and monitored by TLC for complete reduction of the nitro group. The reaction is complete in 25 min. The reaction mixture is filtered over celite to remove the catalyst. The filtrate is condensed to afford 4-((2-(benzyloxy)ethoxy)methyl)aniline as an orange residue contaminated with residual EtOAc. In a 3-necked roundbottom connected to a Dean-Stark trap, a suspension of 4-{[2-(benzyloxy)methyl}aniline (~0.384 g) and diethyl ethoxymethylenemalonate (0.32 mL) is refluxed for 2 hrs. The reaction is cooled to room temperature. Diphenyl ether (2.5 mL) is added and the reaction mixture is heated at 230° C. for 2 hrs. The reaction mixture is cooled to room temperature and diluted with a minimal amount of CH2Cl2 (~1 mL). The slurry is directly loaded onto a silica column and chromatographed eluting with 100% CH2Cl2, followed by 2% MeOH in CH2Cl2. Fractions homogenous by TLC are combined and condensed to afford 123.9 mg (21%) of ethyl 6-((2-(benzyloxy)ethoxy)methyl)-4-hydroxy-3-quinolinecarboxylate as a creme solid. A mixture of ethyl 6-{[2-(benzyloxy)ethoxy]methyl}-4-hydroxy-3-quinolinecarboxylate (250 mg) and Pd/C (10%, 50 mg) is dissolved in 20 mL 3:1 CH2Cl2 :MeOH. The reaction mixture is placed under the Parr hydrogenator at 20 psi H2 and monitored by mass spectroscopy for complete conversion to desired product. The old palladium catalyst is replaced with fresh palladium catalyst each time the reaction was taken off the Parr. In this case, the reaction is taken off the Parr once. The reaction is complete in 181/2 hrs. The reaction mixture is filtered over celite to remove the palladium. The filtrate is condensed to yield a solid. The crude product is adsorbed onto silica and chromatographed eluting with 5% MeOH in CH2Cl2. Fractions homogenous by TLC are combined and condensed to afford 116.2 mg (61%) of ethyl 4-hydroxy-6-[(2-hydroxyethoxy)methyl]-3-quinolinecarboxylate as a white solid. Ethyl 4-hydroxy-6-[(2-hydroxyethoxy)methyl]-3-quinolinecarboxylate (134.2 mg) and p-chlorobenzylamine (0.84 mL) are heated neat at 180° C. for 1 hr. The reaction is cooled to room temperature and partitioned between CH2Cl2 and H2O. The aqueous layer is extracted with CH2Cl2 (2×). The organic layers are combined, dried over Na2SO4, and condensed to afford a yellow residue. The residue is chromatographed eluting with 4% MeOH in CH2Cl2. Fractions homogenous by TLC are combined and condensed to yield 133.6 mg (75%) of the title compound as a white solid.

reactant | ethyl 6-{[2-(benzyloxy)ethoxy]methyl}-4-hydroxy-3-quinolinecarboxylate | 250 mg | C(C1=CC=CC=C1)OCCOCC=1C=C2C(=C(C=NC2=CC1)C(=O)OCC)O | C22H23NO5
reactant | MeOH | CO | CH4O
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | N-(4-Chlorobenzyl)-4-hydroxy-6-[(2-hydroxyethoxy)methyl]-3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C=2C=NC3=CC=C(C=C3C2O)COCCO)C=C1 | C20H19ClN2O4
